US08871766B2
B) 3-methyl-5-(pyridin-4-yl)-1,2-oxazole-4-carboxylic acid
To a solution of ethyl 3-methyl-5-(pyridin-4-yl)-1,2-oxazole-4-carboxylate (0.95 g) in a mixed solvent of THF (20 mL)/methanol (10 mL) was added 1N aqueous sodium hydroxide solution (5.0 mL), and the mixture was stirred at room temperature for 4 hr. To the reaction mixture was added water, and the mixture was washed with ethyl acetate. The obtained aqueous layer was acidified with 1N hydrochloric acid, sodium chloride was added thereto until the mixture became saturated, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.48 g).

reactant | ethyl 3-methyl-5-(pyridin-4-yl)-1,2-oxazole-4-carboxylate | 0.95 g | CC1=NOC(=C1C(=O)OCC)C1=CC=NC=C1 | C12H12N2O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 1N, 5.0 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-methyl-5-(pyridin-4-yl)-1,2-oxazole-4-carboxylic acid | 0.48 g | CC1=NOC(=C1C(=O)O)C1=CC=NC=C1 | C10H8N2O3
